US09428528B2
To a toluene (20 ml) solution of 2,5-dibromopyridine (1.93 g, 8.16 mmol) that is cooled to −78° C. in an atmosphere of nitrogen is added n-butyllithium (2.5 M in hexanes, 3.6 ml, 8.98 mmol) dropwise via syringe over a period of five minutes. The reaction mixture is stirred at −78° C. for ten minutes more before 2-methyl-N-(oxetan-3-ylidene)propane-2-sulfinamide (1.43 g, 8.16 mmol) is added all at once as a concentrated solution in toluene. The reaction is stirred for 30 minutes at −78° C. and for 20 minutes at 0° C. before it is quenched with saturated aqueous ammonium chloride (5 ml). The volatiles were removed by rotary evaporation at reduced pressure. The residual material is partitioned between water (20 ml) and methylene chloride (50 ml). The aqueous is extracted once more with methylene chloride (30 ml). The combined extracts were concentrated and the residual material is subjected to flash column chromatography using a gradient of acetone in hexanes (20% to 75% over 5 column volumes) to provide N-(3-(5-bromopyridin-2-yl)oxetan-3-yl)-2-methylpropane-2-sulfinamide (850 mg): 1H NMR (400 MHz, CDCl3) 1.32 (s, 9H) 4.91-4.97 (m, 2H) 5.13 (d, 1H) 5.34 (d, 1H) 7.78 (d, 1H) 8.04 (m, 1H) 8.68 (d, 1H); m/z (CI) 333, 335 [m+H]+.

reactant | 2,5-dibromopyridine | 8.16 mmol, 1.93 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | n-butyllithium | 8.98 mmol, 2.5 M, 3.6 ml | C(CCC)[Li]
reactant | 2-methyl-N-(oxetan-3-ylidene)propane-2-sulfinamide | 8.16 mmol, 1.43 g | CC(C)(C)S(=O)N=C1COC1 | C7H13NO2S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-(5-bromopyridin-2-yl)oxetan-3-yl)-2-methylpropane-2-sulfinamide | 850 mg | BrC=1C=CC(=NC1)C1(COC1)NS(=O)C(C)(C)C | C12H17BrN2O2S
